US04242510
Ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetate (mixture of syn isomer and anti isomer, 1 g.) was added to a mixture of methanol (10 ml.) and 1 N aqueous solution of sodium hydroxide (6 ml.), and stirred at room temperature for 18 hours. After distilling off the methanol from the resultant solution in vacuo, a saturated aqueous solution of sodium bicarbonate (15 ml.) and ethyl acetate (15 ml.) were added to the residue and shaken sufficiently. The aqueous layer was separated, adjusted to pH 1.0 with 10% hydrochloric acid and extracted with ethyl acetate (20 ml.). The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with a mixture of n-hexane and diethyl ether (1:1). The precipitates were collected by filtration and washed with the same mixture to give 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetic acid (syn isomer, 0.30 g.).

reactant | Ethyl 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetate | 1 g | O1CCSC=C1C(C(=O)OCC)=NOCCC | C11H17NO4S
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetic acid | 0.30 g | O1CCSC=C1C(C(=O)O)=NOCCC | C9H13NO4S
